US06642389B2
In analogy to the procedure described in example 17 a], [rac]-2-ethoxy-3-(4-hydroxy-5,6,7,8-tetrahydro-naphthalen-1-yl)-propionic acid ethyl ester (example 108 b]) was reacted with 3-[2-(4-methoxy-phenyl)-5-methyl-oxazol-4-yl]-propanol (example 42 e]) in the presence of triphenylphosphine and DEAD (diethyl azodicarboxylate) to yield [rac]-2-ethoxy-3-(4-{3-[2-(4-methoxy-phenyl)-5-methyl-oxazol-4-yl]-propoxy}-5,6,7,8-tetrahydro-naphthalen-1-yl)-propionic acid ethyl ester, which was further saponified in analogy to the procedure described in example 91 e] to yield [rac]-2-ethoxy-3-(4-{3-[2-(4-methoxy-phenyl)-5-methyl-oxazol-4-yl]-propoxy}-5,6,7,8-tetrahydro-naphthalen-1-yl)-propionic acid as colorless solid.

reactant | [rac]-2-ethoxy-3-(4-hydroxy-5,6,7,8-tetrahydro-naphthalen-1-yl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=2CCCCC12)O)OCC)=O | C17H24O4
reactant | 3-[2-(4-methoxy-phenyl)-5-methyl-oxazol-4-yl]-propanol | COC1=CC=C(C=C1)C=1OC(=C(N1)CCCO)C | C14H17NO3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | [rac]-2-ethoxy-3-(4-{3-[2-(4-methoxy-phenyl)-5-methyl-oxazol-4-yl]-propoxy}-5,6,7,8-tetrahydro-naphthalen-1-yl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=2CCCCC12)OCCCC=1N=C(OC1C)C1=CC=C(C=C1)OC)OCC)=O | C31H39NO6
